US05238962
9.25 g of ethyl 4-chlorobenzoate and 16.0 g of N-(t-butoxycarbonyl)ethylenediamine are stirred at 130° for 15 hours. The mixture is cooled to room temperature, taken up in 100 ml of water and extracted three times with 50 ml of ethyl acetate each time. The ethyl acetate extract is washed twice with 50 ml of water each time, dried over sodium sulfate and evaporated to dryness. The crystalline residue is taken up in isopropyl ether and filtered off under suction. There are obtained 3.9 g of t-butyl [2-(4-chlorobenzamido)ethyl]carbamate, m.p. 141°-143°.

reactant | ethyl 4-chlorobenzoate | 9.25 g | ClC1=CC=C(C(=O)OCC)C=C1 | C9H9ClO2
reactant | N-(t-butoxycarbonyl)ethylenediamine | 16.0 g | C(C)(C)(C)OC(=O)NCCN | C7H16N2O2
solvent | water | 100 ml | O | H2O
product | t-butyl [2-(4-chlorobenzamido)ethyl]carbamate | 3.9 g | ClC1=CC=C(C(=O)NCCNC(OC(C)(C)C)=O)C=C1 | C14H19ClN2O3
